US08980888B2
<Step 4> Synthesis of 2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid
Sodium methoxide (10.9 ml, a 5 M methanol solution) and benzaldehyde (3.3 ml) were added to a methanol (100 ml) solution of the 1-amino-4-(methoxycarbonyl)pyridin-2(1H)-iminium 2,4,6-trimethylbenzenesulfonate (10 g) obtained in (Example 3.18) <Step 3>, and the obtained mixture was then stirred for 1 hour. Thereafter, water (5 ml) was added to the reaction solution, and the mixed solution was then stirred at 40° C. for 30 minutes. Thereafter, methanol was distilled away under reduced pressure, water (50 ml) and methyl tert-butyl ether (50 ml) were then added to the residue, followed by stirring the mixture. An organic layer was separated from a water layer, and the water layer was then washed with methyl tert-butyl ether (50 ml) again. The water layer was adjusted to pH 4 by addition of 4 N hydrochloric acid (10 ml), and a mixed solution of methylene chloride and methanol (95:5, 50 ml) was then added thereto. Insoluble substances were removed by filtration, and an organic layer was then separated from a water layer. The water layer was extracted with a mixed solution of methylene chloride and methanol (95:5, 50 ml) twice. Organic layers were then combined, and the solvent was then distilled away under reduced pressure. The obtained residue was successively triturated with methyl tert-butyl ether (50 ml) and methanol (50 ml). The obtained solid was washed with methanol (20 ml), and was then dried at 50° C. under reduced pressure, so as to obtain the title compound (3.2 g) in the form of a brown solid.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methanol | 5 M | CO | CH4O
reactant | benzaldehyde | 3.3 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | methanol | 100 ml | CO | CH4O
reactant | 1-amino-4-(methoxycarbonyl)pyridin-2(1H)-iminium 2,4,6-trimethylbenzenesulfonate | 10 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].NN1C(C=C(C=C1)C(=O)OC)=[NH2+]
solvent | water | 5 ml | O | H2O
product | 2-phenyl-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylic acid | 3.2 g | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2)C(=O)O)=N1 | C13H9N3O2
